US06103737
Preparation of N-(2-Bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(2,4-dichlorophenyl)-6-methyl-1,3,5-triazine-2-amine
Part C: A mixture of N-(2-bromo-4-isopropylphenyl)-N-ethyl-4-chloro-6-methyl-1,3,5-triazine-2-amine (370 mg), 2,4-dichlorophenylboronic acid (210 mg) tetrakis(triphenylphoshine)palladium(0) (50 mg), 1M aqueous sodium carbonate (2 mL), ethanol (0.75 mL) and benzene (6 mL) was refluxed for 10 hr.The cooled mixture was diluted with ethyl acetate and the aqueous layer was removed. The organic layer was washed with water and brine, dried, and concentrated in vacuo The crude reaction product was chromatographed on silica gel using ethyl acetate/hexanes (1:9) as eluent. The title compound was obtained as a pure colorless viscous oil (210 mg) that crystallized on standing and trituration with petroleum ether to colorless crystals (82 mg). Elemental Analysis: Calcd. for C21H21N4Cl2Br: C, 52.52: H, 4.417; N, 11.67. Found: C, 52.79; H, 4.34; N, 11.40.

reactant | N-(2-bromo-4-isopropylphenyl)-N-ethyl-4-chloro-6-methyl-1,3,5-triazine-2-amine | 370 mg | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=NC(=N1)Cl)C)CC | C15H18BrClN4
reactant | 2,4-dichlorophenylboronic acid | 210 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | sodium carbonate | 1M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 0.75 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 6 mL | C1=CC=CC=C1 | C6H6
product | N-(2-Bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(2,4-dichlorophenyl)-6-methyl-1,3,5-triazine-2-amine | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=NC(=N1)C1=C(C=C(C=C1)Cl)Cl)C)CC | C21H21BrCl2N4
